US04010166
The mixture of 11.2 g of 7-(4-hydroxyphenyl)-7-phenylhexahydro-1,4-oxazepine hydrochloride, 110 ml of dry acetonitrile, 14.0 g of triethylamine and 5.05 g of allyl bromide is stirred at room temperature for 48 hours. It is evaporated and the residue partitioned between benzene and 2N aqueous sodium hydroxide. The aqueous layer is separated, combined with a further basic extraction of the benzene solution, and the combined aqueous solutions are adjusted to 9 pH of 4-6.3 with acetic acid. The solid which separates is collected, dried and converted to the hydrochloride in acetone (mp. 150°-153°). The free base is liberated again and crystalized from ethanol, to yield the 4-allyl-7-(4-hydroxyphenyl)-7-phenyl-hexahydro-1,4-oxazepine melting at 205°-207°.

reactant | 7-(4-hydroxyphenyl)-7-phenylhexahydro-1,4-oxazepine hydrochloride | 11.2 g | Cl.OC1=CC=C(C=C1)C1(CCNCCO1)C1=CC=CC=C1
reactant | acetonitrile | 110 ml | C(C)#N | C2H3N
reactant | allyl bromide | 5.05 g | C(C=C)Br | C3H5Br
solvent | triethylamine | 14.0 g | C(C)N(CC)CC | C6H15N
product | 4-allyl-7-(4-hydroxyphenyl)-7-phenyl-hexahydro-1,4-oxazepine | C(C=C)N1CCOC(CC1)(C1=CC=CC=C1)C1=CC=C(C=C1)O | C20H23NO2
